US07728129B2
(4-Isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone, dihydrochloride monohydrate salt
A suspension of crude (4-isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone, dihydrochloride (2.1 g, 5.2 mmol) in absolute EtOH (30 mL) was heated to 78° C. and H2O (2.2 mL) was added. The resulting solution was cooled to room temperature and MTBE (5 mL) was added. The resulting suspension was cooled to 0° C. and filtered. The filter cake was washed with MeOH (15 mL). The solids were dried in a vacuum oven at 105° C. for 20 h to yield the title compound as a white solid.

reactant | (4-isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone, dihydrochloride | 5.2 mmol, 2.1 g | Cl.Cl.C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1
reactant | H2O | 2.2 mL | O | H2O
reactant | MTBE | 5 mL | CC(C)(C)OC | C5H12O
solvent | EtOH | 30 mL | CCO | C2H6O
product | (4-Isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone, dihydrochloride monohydrate | O.Cl.Cl.C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | InChI=1S/C19H29N3O2.2ClH.H2O/c1-16(2)21-7-9-22(10-8-21)19(23)18-5-3-17(4-6-18)15-20-11-13-24-14-12-20;;;/h3-6,16H,7-15H2,1-2H3;2*1H;1H2
